US09102621B2
5-chloro-6-isopropoxypyridin-3-ol
To a solution of 3-chloro-2-isopropoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (Preparation 7, 297.6 g, 897.9 mmol) in acetic acid:water (2.2 L:1.0 L) at 0° C. was added peracetic acid (191 mL, 1.077 mol) and the reaction was allowed to warm gradually to room temperature. After 4 hours the reaction was complete and was quenched with 0.5 M solution of sodium thiosulfate (225 mL). The resulting dark solution was evaporated to dryness and the residue was passed through a plug of silica (flushed with neat heptane follow by a gradient up to 10% ethyl acetate:heptane) to remove base line boronate salts. The filtrate was evaporated in vacuo to give a pale yellow viscous oil before further flash column chromatography was performed (1.5 kg for 80 g of material) using 30% ethylacetate in heptane as eluent) to provide a pale yellow solid which was triturated with heptane, dried under suction to give the title compound as a white solid.

reactant | 3-chloro-2-isopropoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 897.9 mmol, 297.6 g | ClC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OC(C)C | C14H21BClNO3
reactant | water | 2.2 L | O | H2O
reactant | peracetic acid | 1.077 mol, 191 mL | C(C)(=O)OO | C2H4O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | 5-chloro-6-isopropoxypyridin-3-ol | ClC=1C=C(C=NC1OC(C)C)O | C8H10ClNO2
